US08865848B2
Bis[2-(cyclohexylmethyl)-4-(4-tert-butylphenyl)-1,5,6,7-tetrahydro-s-indacen-1-yl](dimethyl)silane
To a solution of 20.8 g (54.1 mmol) of 4-(4-tert-butylphenyl)-6-(cyclohexylmethyl)-1,2,3,5-tetrahydro-s-indacene in 600 ml of toluene 21.7 ml (54.2 mmol) of 2.5 M nBuLi in hexanes was added dropwise at 20° C. Then, 30 ml of THF was added, and the resulting mixture was stirred for 1 h at 70° C. The resulting mixture was cooled to 0° C., and 3.30 ml (3.49 g, 27.1 mmol) of dichlorodimethylsilane was added. This mixture was stirred for 12 h at room temperature, then 5 ml of water was added, and organic solvents were evaporated using Rotavapor. The product was extracted from the residue by 3×100 ml of dichloromethane. The organic extract was dried over Na2SO4 and then evaporated to dryness. The product was isolated by flash chromatography on silica gel 60 (40-63 um, eluent: hexanes and then hexanes-dichloromethane, 10:1, vol.). Yield 15.2 g (68%).

reactant | 4-(4-tert-butylphenyl)-6-(cyclohexylmethyl)-1,2,3,5-tetrahydro-s-indacene | 54.1 mmol, 20.8 g | C(C)(C)(C)C1=CC=C(C=C1)C1=C2CCCC2=CC=2C=C(CC12)CC1CCCCC1 | C29H36
reactant | toluene | 54.2 mmol, 600 ml | C1(=CC=CC=C1)C | C7H8
reactant | nBuLi | 2.5 M | [Li]CCCC
reactant | dichlorodimethylsilane | 27.1 mmol, 3.30 ml, 3.49 g | Cl[Si](C)(C)Cl | C2H6Cl2Si
solvent | water | 5 ml | O | H2O
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | Bis[2-(cyclohexylmethyl)-4-(4-tert-butylphenyl)-1,5,6,7-tetrahydro-s-indacen-1-yl](dimethyl)silane | C1(CCCCC1)CC=1C(C2=CC=3CCCC3C(=C2C1)C1=CC=C(C=C1)C(C)(C)C)[Si](C)(C)C1C(=CC2=C(C=3CCCC3C=C12)C1=CC=C(C=C1)C(C)(C)C)CC1CCCCC1 | C60H76Si
